US09126952B2
Under a nitrogen atmosphere, 2.26 g (2.47 mmol) of tris(dibenzylideneacetone)dipalladium-(0) and 4.42 g (12.35 mmol) of 2-(dicyclohexylphosphino)biphenyl were dissolved in 1.5 l of toluene, and 215.2 ml (2.47 mol) of morpholine and 269.0 g (0.5 mol) of 7-bromo-2,4-bis(4-methoxybenzyloxy)quinazoline [dissolved in 5 l of toluene] were added successively. 66.47 g (0.7 mol) of sodium tert-butoxide were subsequently added in portions, and the mixture was stirred at 90° C. for 12 h. Conventional work-up gave 249.0 g of 2,4-bis(4-methoxybenzyloxy)-7-morpholin-4-ylquinazoline; HPLC/MS (M+H)+=488 as oil [crude product; was reacted further directly].

reactant | morpholine | 2.47 mol, 215.2 ml | N1CCOCC1 | C4H9NO
reactant | 7-bromo-2,4-bis(4-methoxybenzyloxy)quinazoline | 0.5 mol, 5 l, 269.0 g | BrC1=CC=C2C(=NC(=NC2=C1)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC | C24H21BrN2O4
reactant | sodium tert-butoxide | 0.7 mol, 66.47 g | CC(C)([O-])C.[Na+]
solvent | toluene | 1.5 l | C1(=CC=CC=C1)C | C7H8
catalyst | 2-(dicyclohexylphosphino)biphenyl | 12.35 mmol, 4.42 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
product | 2,4-bis(4-methoxybenzyloxy)-7-morpholin-4-ylquinazoline | 249.0 g | COC1=CC=C(COC2=NC3=CC(=CC=C3C(=N2)OCC2=CC=C(C=C2)OC)N2CCOCC2)C=C1 | C28H29N3O5
